US08044041B2
A mixture of 4-iodo-1-methoxy-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (0.128 g, 0.27 mmol), K2CO3 (0.075 g, 0.54 mmol), water (0.5 mL), toluene (3 mL), methanol (3 mL), 3-pyridineboronic acid (0.04 g, 0.325 mmol), Pd(PPh3)4 (0.094 g, 0.081 mmol) was heated to 65° C. for 2 hour. The reaction was cooled, filtered through celite, rinsed with methanol and concentrated. The residue was taken up in EtOAc, washed with sat. aq. NaHCO3 and dried (Na2SO4). Column chromatography (Hex/EtOAc) afforded 1-methoxy-4-pyridin-2-yl-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (57 mg), m/z 425.01

reactant | 4-iodo-1-methoxy-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.27 mmol, 0.128 g | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)OC)I)(F)F | C17H11F3IN3O2
reactant | K2CO3 | 0.54 mmol, 0.075 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 0.5 mL | O | H2O
reactant | 3-pyridineboronic acid | 0.325 mmol, 0.04 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
catalyst | Pd(PPh3)4 | 0.081 mmol, 0.094 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | methanol | 3 mL | CO | CH4O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 1-methoxy-4-pyridin-2-yl-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 57 mg | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)OC)C1=NC=CC=C1)(F)F | C22H15F3N4O2
